US07678818B2
Preparation of (R)-2-(4-chloro-phenyl)-2-hydroxy-ethylamine hydrochloride
1.9 g of (R (4-chloro-phenyl)-hydroxy-acetonitrile (11 mmol) were dissolved in 18 ml THF under a nitrogen atmosphere and the solution was cooled to 0° C. 58 ml of a 1M borane-THF complex solution in THF were then added dropwise, keeping the temperature between 0-2° C. After completion of the addition the reaction mixture was stirred at RT for additional 45 min and then refluxed for 16 h. The reaction mixture was then cooled down to 0° C. and 13 ml of methanol were added over a period of 35 min keeping the temperature of the mixture between 2 and 5° C. After refluxing the reaction mixture for 1 h it was concentrated, the remaining residue was dissolved in DCM and the mixture was extracted twice with 1N aqueous HCl. The combined aqueous phases are then treated with concentrated NaOH to adjust the pH to 12, and then extracted twice with DCM. The combined organic phases were then washed with water, dried with magnesium sulfate, filtered and concentrated in vacuo leading to a colorless solid which was dissolved in 100 ml diethylether, treated with 4 ml 2.6N HCl in diethyl ether. After 1 h at RT the precipitate was filtered off and dried under high vacuum, leading to 1.24 g white solid (54%). MS (ISP) 172.1 (M+H)+.

reactant | (4-chloro-phenyl)-hydroxy-acetonitrile | 11 mmol | ClC1=CC=C(C=C1)C(C#N)O | C8H6ClNO
reactant | methanol | 13 ml | CO | CH4O
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | (R)-2-(4-chloro-phenyl)-2-hydroxy-ethylamine hydrochloride | Cl.ClC1=CC=C(C=C1)[C@H](CN)O | InChI=1S/C8H10ClNO.ClH/c9-7-3-1-6(2-4-7)8(11)5-10;/h1-4,8,11H,5,10H2;1H/t8-;/m0./s1
